US06730803B2
To the reaction mixture obtained by the method of Example 2 were added 10% aqueous sodium hydroxide solution (113.8 g) and methanol (20 mL), and the mixture was stirred overnight at room temperature. The disappearance of tert-butyl 4-cyano-3-hydroxy-4-methylpentanoate was confirmed by GC. Toluene (50 mL) was added, and the mixture was stirred and then partitioned to remove the toluene layer. 20% Aqueous hydrochloric acid solution (67.5 g) was added to the aqueous layer to adjust its pH to an acidic one (ca. 1-2), and the mixture was extracted twice with a mixed solution (150 mL) of ethyl acetate-n-butanol (1:1). The layer of the mixed solution was concentrated under reduced pressure to give 4-cyano-3-hydroxy-4-methylpentanoic acid (18.75 g) as an oil. The yield was 84% relative to tert-butyl 4-cyano-3-hydroxy-4-methylpentanoate, but crystallization did not occur.

reactant | sodium hydroxide | 113.8 g | [OH-].[Na+]
reactant | methanol | 20 mL | CO | CH4O
reactant | tert-butyl 4-cyano-3-hydroxy-4-methylpentanoate | C(#N)C(C(CC(=O)OC(C)(C)C)O)(C)C | C11H19NO3
solvent | Toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-cyano-3-hydroxy-4-methylpentanoic acid | 18.75 g, yield was 84% | C(#N)C(C(CC(=O)O)O)(C)C | C7H11NO3
